US09303028B2
A mixture of 4-chloro-5-fluoro-2-nitrobenzaldehyde (1.50 g, 7.37 mmol), concentrated hydrochloric acid (0.30 ml, 3.68 mmol), and iron (1.32 g, 23.6 mmol) in EtOH (18 mL), AcOH (18 mL), and water (9 mL) was heated to reflux for 30 minutes, then cooled to RT. The resulting suspension was filtered through CELITE™ and the filtrate was then partitioned between EtOAc and water. The layers were separated, the organic layer was washed with saturated aqueous sodium bicarbonate solution, dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo to give 2-amino-4-chloro-5-fluorobenzaldehyde as a yellow solid (1.15 g, 90% yield). m/z=174 (M+1).

reactant | 4-chloro-5-fluoro-2-nitrobenzaldehyde | 7.37 mmol, 1.50 g | ClC1=CC(=C(C=O)C=C1F)[N+](=O)[O-] | C7H3ClFNO3
reactant | hydrochloric acid | 3.68 mmol, 0.30 ml | Cl | ClH
reactant | water | 9 mL | O | H2O
solvent | EtOH | 18 mL | CCO | C2H6O
solvent | AcOH | 18 mL | CC(=O)O | C2H4O2
catalyst | iron | 23.6 mmol, 1.32 g | [Fe] | Fe
product | 2-amino-4-chloro-5-fluorobenzaldehyde | 1.15 g, 90% yield | NC1=C(C=O)C=C(C(=C1)Cl)F | C7H5ClFNO
